spice
* SPICE Netlist for Differential Amplifier

VDD 4 0 DC VDD

* NMOS Transistors
M1 5 1 4 4 NMOS
M2 2 3 4 4 NMOS

* Resistors
RD1 4 5 RD
RD2 4 2 RD

* Current Source
ISS 4 0 DC ISS

* Voltage Source
VIN1 1 0 DC 0
VIN2 3 0 DC 0

* Output
VOUT1 2 0
VOUT2 5 0

.ends